US09227930B2
To a stirred and cooled (−10° C.) solution of ethyl 1-benzyl-6-methoxy-2,3-dihydro-1H-inden-2-ylcarbamate (668 mg, 2.053 mmol) in dichloromethane (15 ml) under argon was added dropwise 1M tribromoborane (6.16 ml, 6.16 mmol) and stirred over night while the reaction mixture was allowed to warm up to room temperature. Poured into ice water, diluted with dichloromethane, separated organic layer and the aqueous layer was extracted twice with dichloromethane. The combined organic layers were washed subsequently with water, sodium bicarbonate and brine, dried, filtered and evaporated to obtain ethyl 1-benzyl-6-hydroxy-2,3-dihydro-1H-inden-2-ylcarbamate as a brown solid. m=620 mg (97%)

reactant | ethyl 1-benzyl-6-methoxy-2,3-dihydro-1H-inden-2-ylcarbamate | 2.053 mmol, 668 mg | C(C1=CC=CC=C1)C1C(CC2=CC=C(C=C12)OC)NC(OCC)=O | C20H23NO3
reactant | tribromoborane | 6.16 mmol, 1M, 6.16 ml | BrB(Br)Br | BBr3
solvent | dichloromethane | 15 ml | ClCCl | CH2Cl2
product | ethyl 1-benzyl-6-hydroxy-2,3-dihydro-1H-inden-2-ylcarbamate | C(C1=CC=CC=C1)C1C(CC2=CC=C(C=C12)O)NC(OCC)=O | C19H21NO3
